* C:\sandbox\PyLTSpice\examples\testfiles\Noise.asc
* Generated by LTspice 26.0.1 for Windows.
V1 in 0 11
R1 out in 11k
C1 out 0 1.1u
.noise V(out) V1 oct 10 1m 10Meg
.backanno
.end
